US07713979B2
Cool a THF solution of 1.0 equivalent of 3-(2,4-Dichloro-phenyl)-3-methyl-butyric acid ethyl ester, obtained above, to −78° C., treat with LDA (2.0 eq), followed by allyl bromide (1.1 eq), warm to room temperature and stir 17 h. Quench reaction with NH4Cl, dilute with diethyl ether, wash organics with 0.1 N HCl, brine, dry over sodium sulfate, filter and evaporate. Chromatography, (silica, hexanes/EtOAc, 98:2) provides 2-[1-(2,4-dichloro-phenyl)-1-methyl-ethyl]-pent-4-enoic acid ethyl ester in 52% yield.

reactant | THF | C1CCOC1 | C4H8O
reactant | 3-(2,4-Dichloro-phenyl)-3-methyl-butyric acid ethyl ester | 1.0 equivalent | C(C)OC(CC(C)(C)C1=C(C=C(C=C1)Cl)Cl)=O | C13H16Cl2O2
reactant | LDA | 2.0 eq | [Li+].CC(C)[N-]C(C)C
reactant | allyl bromide | 1.1 eq | C(C=C)Br | C3H5Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[1-(2,4-dichloro-phenyl)-1-methyl-ethyl]-pent-4-enoic acid ethyl ester | 52% yield | C(C)OC(C(CC=C)C(C)(C)C1=C(C=C(C=C1)Cl)Cl)=O | C16H20Cl2O2
